US06800629B2
In a mixture of 8.2 mL of methanol and 8.2 mL of tetrahydrofuran was dissolved 0.82 g of {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-5-fluoro-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl diallyl phosphate under a stream of nitrogen gas. After adding 0.11 g of tetrakis-triphenylphosphine palladium (0) and 0.28 g of triphenylphosphine successively, the mixture thus obtained was stirred at room temperature for 30 minutes. While cooling the reaction mixture with ice, a solution of 0.68 mL of formic acid in 1.9 mL of tetrahydrofuran and a solution of 0.25 mL of n-butylamine in 8.2 mL of tetrahydrofuran were successively added. The mixture thus obtained was stirred at 30-35° C. for one hour and then at 40-45° C. for 2 hours. The reaction mixture was diluted with 10 mL of water, and the organic solvent was removed under reduced pressure. The aqueous solution thus obtained was washed with 20 mL of chloroform, and the washings were extracted with 30 mL of water. All the aqueous layers were united, and the solvent was removed under reduced pressure. The residue thus obtained was purified by reversed phase silica gel column chromatography [eluent: water]. Thus, 0.29 g of {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-5-fluoro-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl dihydrogen phosphate n-butylamine salt was obtained as a yellow-colored solid product.

reactant | {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-5-fluoro-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl diallyl phosphate | 0.82 g | P(=O)(OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(C(=NC(=C1)F)C(=O)N)=O)(OCC=C)OCC=C | C16H21FN3O9P
reactant | triphenylphosphine | 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formic acid | 0.68 mL | C(=O)O | CH2O2
reactant | n-butylamine | 0.25 mL | C(CCC)N | C4H11N
solvent | methanol | 8.2 mL | CO | CH4O
solvent | tetrahydrofuran | 8.2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.2 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-5-fluoro-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl dihydrogen phosphate n-butylamine salt | 0.29 g | C(CCC)N.P(=O)(OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(C(=NC(=C1)F)C(=O)N)=O)(O)O | InChI=1S/C10H13FN3O9P.C4H11N/c11-4-1-14(9(18)5(13-4)8(12)17)10-7(16)6(15)3(23-10)2-22-24(19,20)21;1-2-3-4-5/h1,3,6-7,10,15-16H,2H2,(H2,12,17)(H2,19,20,21);2-5H2,1H3/t3-,6-,7-,10-;/m1./s1
